US07148226B2
2-[5-(Chloromethyl)-1,2,4-oxadiazol-3-yl]pyridine
The title compound was prepared by a modification of a reported method: a) Mylari, B. L.; Beyer, T. A.; Scott, P. J.; Aldinger, C. E.; Dee, M. F.; Siegel, T. W.; Zembrowski, W. J. J. Med. Chem. 1992, 35, 457, and b) Palazzo, G.; Tavella, M.; Strani, G.; Silvestrini, B.; J. Med. Pharm. Chem. 1961, 4, 351. To a suspension of N′-hydroxypyridine-2-carboximidamide (25.0 g, 0.182 mol) in chloroform (350 mL) was added chloroacetyl chloride (20.5 g, 0.182 mol, 1 equiv) and triethylamine (20.23 g, 0.2 mol, 1.1 equiv). When most of the triethylamine had been added, the suspension turned to a clear light-yellow solution. The solution was allowed to stand at room temperature for 1 d. The mixture was extracted with water (3×75 mL), resulting in the precipitation of a crystalline solid. The resulting slurry was filtered, and filter cake triturated with ethanol, re-filtered, and dried, affording 29.62 g (73%) of the O-chloracetyl amidoxime intermediate. This intermediate was refluxed in xylenes (300 mL) for 3 h, and the volatiles removed completely in vacuo, affording 25.55 g (72% overall) of the pure 1,2,4-oxadiazole. 1H NMR (DMSO-d6) □ 5.20 (s, 2H), 7.62 (m, 1H), 8.06 (m, 2H), 8.76 (m, 1H). LC-MS (APCI) calcd for C8H6ClN3O: 195.02. found (M+H+): 196.0 m/z.

reactant | N′-hydroxypyridine-2-carboximidamide | 0.182 mol, 25.0 g | ON=C(N)C1=NC=CC=C1 | C6H7N3O
reactant | chloroacetyl chloride | 0.182 mol, 20.5 g, 1 equiv | ClCC(=O)Cl | C2H2Cl2O
reactant | triethylamine | 0.2 mol, 20.23 g, 1.1 equiv | C(C)N(CC)CC | C6H15N
solvent | chloroform | 350 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-[5-(Chloromethyl)-1,2,4-oxadiazol-3-yl]pyridine | ClCC1=NC(=NO1)C1=NC=CC=C1 | C8H6ClN3O
